US07329662B2
2-Methyl-5-(4-trifluoromethyl-phenyl)-7-trifluoromethyl-pyrazolo[1,5-a]pyrimidine-3-carbonitrile
Reaction of 1-(4-trifluoromethyl-phenyl)-4,4,4-trifluoro-butane-1,3-dione (284 mg, 1.0 mmol), prepared from commercially available 4-trifluoromethyl-acetophenone according to general procedure A, and commercially available 3-amino-4-cyano-5-methyl-pyrazole (122 mg, 1.0 mmol) according to general procedure B yielded the title compound as a light yellow solid (234 mg, 63%). MS (ISP) 371.1 [(M+H)+]; mp 184° C.

reactant | 1-(4-trifluoromethyl-phenyl)-4,4,4-trifluoro-butane-1,3-dione | 1.0 mmol, 284 mg | FC(C1=CC=C(C=C1)C(CC(C(F)(F)F)=O)=O)(F)F | C11H6F6O2
reactant | 3-amino-4-cyano-5-methyl-pyrazole | 1.0 mmol, 122 mg | NC1=NNC(=C1C#N)C | C5H6N4
product | 2-Methyl-5-(4-trifluoromethyl-phenyl)-7-trifluoromethyl-pyrazolo[1,5-a]pyrimidine-3-carbonitrile | 234 mg, 63% | CC1=NN2C(N=C(C=C2C(F)(F)F)C2=CC=C(C=C2)C(F)(F)F)=C1C#N | C16H8F6N4
